US08541596B2
N-(4-Chlorobenzyl)-N-((benzo[c][1,2,5]thiadiazol-6-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-chlorobenzyl)benzimidazol-5-amine (258 mg; 1 mmol; 1 eq.), (benzo-[c][1,2,5]-thiadiazol-6-yl)methylbromide (252 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.151 g (37.2%); MS m/z: 406.4/408.3 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.77 (s, 2H); 4.88 (s, 2H); 6.73-6.79 (m, 2H); 7.32-7.38 (m, 5H); 7.69 (dd, 1H, 4J=1.5 Hz, 3J=9.2 Hz); 7.86 (s, 1H); 7.92 (s, 1H); 8.05 (d, 1H, 3J=9.2 Hz); 11.87 (br s, 1H); HPLC (METHOD [A]): rt 15.88 min (95.9%)

reactant | N-(4-chlorobenzyl)benzimidazol-5-amine | 1 mmol, 258 mg, 1 eq. | ClC1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C14H12ClN3
reactant | (benzo-[c][1,2,5]-thiadiazol-6-yl)methylbromide | 1.1 mmol, 252 mg, 1.1 eq. | N=1SN=C2C1C=C(C=C2)CBr | C7H5BrN2S
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-Chlorobenzyl)-N-((benzo[c][1,2,5]thiadiazol-6-yl)methyl)-1H-benzo[d]imidazol-5-amine | ClC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC=2C=CC=3C(=NSN3)C2)C=C1 | C21H16ClN5S
